US04375549
A mixture of 3.8 g (0.025 g mole) of methyl phenyl carbonate, 3.83 g (0.025 g mole) of trimethylbromosilane, and 0.09 g of tetra-n-butyl phosphonium bromide in 15 ml of sulfolane was heated at 120° C. in a reaction flask equipped with a reflux condenser. After 16 hours of heating, the reflux condenser was replaced by a distillation head and 2.7 g (65 percent yield) of phenoxytrimethylsilane was distilled at reduced pressure from the reaction mixture at a head temperature of 71° C.-72° C./18 mm Hg.

reactant | methyl phenyl carbonate | 3.8 g | C(OC)(OC1=CC=CC=C1)=O | C8H8O3
reactant | trimethylbromosilane | 3.83 g | C[Si](Br)(C)C | C3H9BrSi
catalyst | tetra-n-butyl phosphonium bromide | 0.09 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | sulfolane | 15 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | phenoxytrimethylsilane | 2.7 g, 65 percent yield | O(C1=CC=CC=C1)[Si](C)(C)C | C9H14OSi
